US08039495B2
To a mixture of 3-(4′,5′-difluoro-2′-methoxybiphenyl-4-yloxymethyl)-4-fluorobenzoic acid (0.3 g, 0.77 mmol) and N-methyl-glycine ethyl ester hydrochloride (0.7 g, 4.5 mmol) in methylene chloride (40 mL) was added HOAT (0.2 g, 1.46 mmol), EDCI (0.3 g, 1.56 mmol) and triethylamine (1.4 mL, 10 mmol). The mixture was stirred at room temperature for 3 hrs and extracted with methylene chloride and dilute hydrochloric acid. The organic layer was dried and concentrated. The residue was purified through flash column chromatography (80 g silica gel, 5% to 60% ethyl acetate in hexanes over 25 minutes) to give amorphous material as {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-4-fluoro-benzoyl]-methyl-amino}-acetic acid ethyl ester (0.29 g, 77%).

reactant | 3-(4′,5′-difluoro-2′-methoxybiphenyl-4-yloxymethyl)-4-fluorobenzoic acid | 0.77 mmol, 0.3 g | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC=1C=C(C(=O)O)C=CC1F)OC | C21H15F3O4
reactant | N-methyl-glycine ethyl ester hydrochloride | 4.5 mmol, 0.7 g | Cl.C(C)OC(CNC)=O
reactant | HOAT | 1.46 mmol, 0.2 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 1.56 mmol, 0.3 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-4-fluoro-benzoyl]-methyl-amino}-acetic acid ethyl ester | 0.29 g, 77% | C(C)OC(CN(C)C(C1=CC(=C(C=C1)F)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O)=O | C26H24F3NO5
